*** SPICE deck for cell HW3_prob8{lay} from library HW3
*** Created on Thu Apr 30, 2020 21:08:47
*** Last revised on Thu Apr 30, 2020 22:01:26
*** Written on Thu Apr 30, 2020 22:12:18 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF
***    P-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    N-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=3.0ohms/sq
***    Polysilicon-1:	areacap=0.1467FF/um^2,	edgecap=0.0608FF/um,	res=6.2ohms/sq
***    Polysilicon-2:	areacap=1.0FF/um^2,	edgecap=0.0FF/um,	res=50.0ohms/sq
***    Transistor-Poly:	areacap=0.09FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Poly-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.2ohms/sq
***    Active-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Metal-1:	areacap=0.1209FF/um^2,	edgecap=0.1104FF/um,	res=0.078ohms/sq
***    Via1:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq
***    Metal-2:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via2:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.9ohms/sq
***    Metal-3:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via3:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-4:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via4:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-5:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via5:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-6:	areacap=0.0423FF/um^2,	edgecap=0.1273FF/um,	res=0.036ohms/sq
***    Hi-Res:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq

*** TOP LEVEL CELL: HW3_prob8{lay}
Mnmos@4 net@61 y#0nmos@4_poly-right net@60 gnd NMOS L=0.35U W=1.75U AS=1.723P AD=0.919P PS=5.469U PD=2.8U
Mnmos@5 P2 x#0nmos@5_poly-right net@61 gnd NMOS L=0.35U W=1.75U AS=0.919P AD=1.761P PS=2.8U PD=5.512U
Mnmos@6 net@61 z#0nmos@6_poly-left net@60 gnd NMOS L=0.35U W=1.75U AS=1.723P AD=0.919P PS=5.469U PD=2.8U
Mnmos@7 net@60 w#0nmos@7_poly-right net@61 gnd NMOS L=0.35U W=1.75U AS=0.919P AD=1.723P PS=2.8U PD=5.469U
Mnmos@8 gnd clock#6nmos@8_poly-right net@60 gnd NMOS L=0.35U W=1.75U AS=1.723P AD=6.278P PS=5.469U PD=17.675U
Mpmos@3 P2 clock#0pmos@3_poly-right vdd vdd PMOS L=0.35U W=1.75U AS=5.359P AD=1.761P PS=14.525U PD=5.512U
** Extracted Parasitic Capacitors ***
C0 P2 0 4.822fF
C1 net@60 0 4.875fF
C2 net@61 0 1.094fF
C3 y#0nmos@4_poly-right 0 0.108fF
C4 clock#1pin@12_polysilicon-1 0 0.131fF
C5 x#1pin@13_polysilicon-1 0 0.141fF
C6 x#2pin@14_polysilicon-1 0 0.116fF
C7 y#2pin@16_polysilicon-1 0 0.124fF
C8 w#1pin@17_polysilicon-1 0 0.12fF
C9 z#2pin@20_polysilicon-1 0 0.128fF
C10 w#2pin@21_polysilicon-1 0 0.144fF
C11 clock#4pin@28_polysilicon-1 0 0.169fF
C12 clock#5pin@30_polysilicon-1 0 0.129fF
C13 P2#5pin@33_polysilicon-2 0 1.116fF
C14 clock#7pin@41_polysilicon-1 0 0.107fF
C15 clock#0pmos@3_poly-right 0 0.159fF
** Extracted Parasitic Resistors ***
R0 clock#0pmos@3_poly-right clock#0pmos@3_poly-right##0 9.92
R1 clock#0pmos@3_poly-right##0 clock#0pmos@3_poly-right##1 9.92
R2 clock#0pmos@3_poly-right##1 clock#0pmos@3_poly-right##2 9.92
R3 clock#0pmos@3_poly-right##2 clock#0pmos@3_poly-right##3 9.92
R4 clock#0pmos@3_poly-right##3 clock#1pin@12_polysilicon-1 9.92
R5 clock#1pin@12_polysilicon-1 clock#1pin@12_polysilicon-1##0 7.75
R6 clock#1pin@12_polysilicon-1##0 clock 7.75
R7 x#0nmos@5_poly-right x#0nmos@5_poly-right##0 8.267
R8 x#0nmos@5_poly-right##0 x#0nmos@5_poly-right##1 8.267
R9 x#0nmos@5_poly-right##1 x#1pin@13_polysilicon-1 8.267
R10 x#1pin@13_polysilicon-1 x#1pin@13_polysilicon-1##0 9.3
R11 x#1pin@13_polysilicon-1##0 x#1pin@13_polysilicon-1##1 9.3
R12 x#1pin@13_polysilicon-1##1 x#1pin@13_polysilicon-1##2 9.3
R13 x#1pin@13_polysilicon-1##2 x#1pin@13_polysilicon-1##3 9.3
R14 x#1pin@13_polysilicon-1##3 x#1pin@13_polysilicon-1##4 9.3
R15 x#1pin@13_polysilicon-1##4 x#1pin@13_polysilicon-1##5 9.3
R16 x#1pin@13_polysilicon-1##5 x#1pin@13_polysilicon-1##6 9.3
R17 x#1pin@13_polysilicon-1##6 x#2pin@14_polysilicon-1 9.3
R18 y#0nmos@4_poly-right y#0nmos@4_poly-right##0 9.61
R19 y#0nmos@4_poly-right##0 y#0nmos@4_poly-right##1 9.61
R20 y#0nmos@4_poly-right##1 y#0nmos@4_poly-right##2 9.61
R21 y#0nmos@4_poly-right##2 y#0nmos@4_poly-right##3 9.61
R22 y#0nmos@4_poly-right##3 y#2pin@16_polysilicon-1 9.61
R23 x#2pin@14_polysilicon-1 x#2pin@14_polysilicon-1##0 5.425
R24 x#2pin@14_polysilicon-1##0 x 5.425
R25 y#2pin@16_polysilicon-1 y#2pin@16_polysilicon-1##0 6.975
R26 y#2pin@16_polysilicon-1##0 y 6.975
R27 w#0nmos@7_poly-right w#0nmos@7_poly-right##0 6.2
R28 w#0nmos@7_poly-right##0 w#1pin@17_polysilicon-1 6.2
R29 z#0nmos@6_poly-left z#0nmos@6_poly-left##0 8.138
R30 z#0nmos@6_poly-left##0 z#0nmos@6_poly-left##1 8.138
R31 z#0nmos@6_poly-left##1 z#0nmos@6_poly-left##2 8.138
R32 z#0nmos@6_poly-left##2 z#2pin@20_polysilicon-1 8.138
R33 w#1pin@17_polysilicon-1 w#1pin@17_polysilicon-1##0 9.558
R34 w#1pin@17_polysilicon-1##0 w#1pin@17_polysilicon-1##1 9.558
R35 w#1pin@17_polysilicon-1##1 w#1pin@17_polysilicon-1##2 9.558
R36 w#1pin@17_polysilicon-1##2 w#1pin@17_polysilicon-1##3 9.558
R37 w#1pin@17_polysilicon-1##3 w#1pin@17_polysilicon-1##4 9.558
R38 w#1pin@17_polysilicon-1##4 w#2pin@21_polysilicon-1 9.558
R39 w#2pin@21_polysilicon-1 w#2pin@21_polysilicon-1##0 8.783
R40 w#2pin@21_polysilicon-1##0 w#2pin@21_polysilicon-1##1 8.783
R41 w#2pin@21_polysilicon-1##1 w 8.783
R42 z#2pin@20_polysilicon-1 z#2pin@20_polysilicon-1##0 8.783
R43 z#2pin@20_polysilicon-1##0 z#2pin@20_polysilicon-1##1 8.783
R44 z#2pin@20_polysilicon-1##1 z 8.783
R45 clock#0pmos@3_poly-right clock#0pmos@3_poly-right##0 9.61
R46 clock#0pmos@3_poly-right##0 clock#0pmos@3_poly-right##1 9.61
R47 clock#0pmos@3_poly-right##1 clock#0pmos@3_poly-right##2 9.61
R48 clock#0pmos@3_poly-right##2 clock#0pmos@3_poly-right##3 9.61
R49 clock#0pmos@3_poly-right##3 clock#4pin@28_polysilicon-1 9.61
R50 clock#4pin@28_polysilicon-1 clock#4pin@28_polysilicon-1##0 9.847
R51 clock#4pin@28_polysilicon-1##0 clock#4pin@28_polysilicon-1##1 9.847
R52 clock#4pin@28_polysilicon-1##1 clock#4pin@28_polysilicon-1##2 9.847
R53 clock#4pin@28_polysilicon-1##2 clock#4pin@28_polysilicon-1##3 9.847
R54 clock#4pin@28_polysilicon-1##3 clock#4pin@28_polysilicon-1##4 9.847
R55 clock#4pin@28_polysilicon-1##4 clock#4pin@28_polysilicon-1##5 9.847
R56 clock#4pin@28_polysilicon-1##5 clock#4pin@28_polysilicon-1##6 9.847
R57 clock#4pin@28_polysilicon-1##6 clock#4pin@28_polysilicon-1##7 9.847
R58 clock#4pin@28_polysilicon-1##7 clock#4pin@28_polysilicon-1##8 9.847
R59 clock#4pin@28_polysilicon-1##8 clock#4pin@28_polysilicon-1##9 9.847
R60 clock#4pin@28_polysilicon-1##9 clock#4pin@28_polysilicon-1##10 9.847
R61 clock#4pin@28_polysilicon-1##10 clock#4pin@28_polysilicon-1##11 9.847
R62 clock#4pin@28_polysilicon-1##11 clock#4pin@28_polysilicon-1##12 9.847
R63 clock#4pin@28_polysilicon-1##12 clock#4pin@28_polysilicon-1##13 9.847
R64 clock#4pin@28_polysilicon-1##13 clock#4pin@28_polysilicon-1##14 9.847
R65 clock#4pin@28_polysilicon-1##14 clock#4pin@28_polysilicon-1##15 9.847
R66 clock#4pin@28_polysilicon-1##15 clock#5pin@30_polysilicon-1 9.847
R67 P2 P2##0 9.444
C16 P2##0 0 1.116fF
R68 P2##0 P2##1 9.444
C17 P2##1 0 1.116fF
R69 P2##1 P2##2 9.444
C18 P2##2 0 1.116fF
R70 P2##2 P2##3 9.444
C19 P2##3 0 1.116fF
R71 P2##3 P2##4 9.444
C20 P2##4 0 1.116fF
R72 P2##4 P2#5pin@33_polysilicon-2 9.444
R73 clock#6nmos@8_poly-right clock#6nmos@8_poly-right##0 8.913
R74 clock#6nmos@8_poly-right##0 clock#6nmos@8_poly-right##1 8.913
R75 clock#6nmos@8_poly-right##1 clock#6nmos@8_poly-right##2 8.913
R76 clock#6nmos@8_poly-right##2 clock#7pin@41_polysilicon-1 8.913
R77 clock#5pin@30_polysilicon-1 clock#7pin@41_polysilicon-1 7.75

* Spice Code nodes in cell cell 'HW3_prob8{lay}'
VDD VDD 0 DC 3.3
VGND GND 0 DC 0
vin1 x 0 dc 1
vin2 w 0 dc 1
vin3 z 0 dc 1
vin4 y 0 dc PULSE(0 1 0 0.1n 0.01n 0.25n 0.5n)
vin5 clock 0 dc PULSE(0 1 0 0.01n 0.01n 0.5n 1n)
Cload P1 P2 1f
Cend P1 0 0f
.tran 0 3ns
.include C:\Electric\C5_models.txt
.END
